US06096710
Boc-Gly-Nleu-OH
Boc-Gly-Nleu-OEt (28.8 g, 0.094 mol.) was dissolved in a mixture of 150 ml H2O and 150 ml THF. KOH (11.9 g, 0.18 mol.) dissolved in 50 ml H2O was added while stirring the solution. After one hour, The THF was removed under reduced pressure. The aqueous solution was chilled to 0° C. and acidified to about pH=2 by addition of concentrated HCl (swirling the solution vigorously at the same time). The product was extracted from the aqueous layer by ethyl acetate 3×100 ml. The organic layers were combined, washed by brine and dried by Na2SO4. The ethyl acetate was removed under reduced pressure to get the crude product. Column chromatography (elution solvents: E/H, 1:1. This solvent system was used to remove the impurities and the pure product was washed out from the column by a mixture of methanol and ethyl acetate) was carried out to obtain the pure product (white oil, 20 g, 74%). TLC Rf=0.2 (developing solvents: E/H, 3:1). FAB-MS, observed (M+H)+ =289. 1H-NMR (360 MHz, DMSO-d6) d 6.72 (m, Gly-NH), 6.62 (m, Gly-NH), 4.03 (s, Nleu-α), 3.87 (s, Nleu-α), 3.78 (d, Gly-α), 3.68 (d, Gly-α), 3.06 (m, Nleu-β), 1.82 (m, 1H, Nleu-γ), 1.32 (s, 9H, Boc-CH3), 0.85 (d, Nleu-δ), 0.76 (d, Nleu-δ).

reactant | Boc-Gly-Nleu-OEt | 0.094 mol, 28.8 g | N(CC(=O)N[C@@H](CCCC)C(=O)OCC)C(=O)OC(C)(C)C | C15H28N2O5
reactant | KOH | 0.18 mol, 11.9 g | [OH-].[K+]
solvent | H2O | 150 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | H2O | 50 ml | O | H2O
product | Boc-Gly-Nleu-OH | N(CC(=O)N[C@@H](CCCC)C(=O)O)C(=O)OC(C)(C)C | C13H24N2O5
